US09108944B2
A mixture of 5-bromo-6-(trifluoromethyl)pyridin-2-amine (3.0 g, 12.3 mmol), Zn(CN)2 (0.81 g, 6.9 mmol), Pd2(dba)3 (0.57 g, 0.6 mmol), and Xantphos (0.72 g, 1.2 mmol) in DMA (12 mL) was placed in a sealed tube. The mixture was degassed with argon and stirred at 160° C. for 20 h. The mixture was poured into water and extracted with EtOAc (2×). The combined organic layers were dried over magnesium sulfate and concentrated to dryness. The residue was purified by column chromatography on silica gel eluting with 3:1 EtOAc/hexanes to afford 1.9 g of 6-amino-2-(trifluoromethyl)nicotinonitrile as a solid. 1H NMR (400 MHz, CDCl3) δ 7.74 (d, 1H), 6.67 (d, 1H).

reactant | 5-bromo-6-(trifluoromethyl)pyridin-2-amine | 12.3 mmol, 3.0 g | BrC=1C=CC(=NC1C(F)(F)F)N | C6H4BrF3N2
reactant | Xantphos | 1.2 mmol, 0.72 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | DMA | 12 mL | CC(=O)N(C)C | C4H9NO
catalyst | Zn(CN)2 | 6.9 mmol, 0.81 g | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd2(dba)3 | 0.6 mmol, 0.57 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-amino-2-(trifluoromethyl)nicotinonitrile | 1.9 g | NC1=NC(=C(C#N)C=C1)C(F)(F)F | C7H4F3N3
